US05112866
2-[(4-Butylphenyl)amino]ethenesulfonyl Fluoride Monohydrochloride
The reaction between 4-butylaniline (3.51 g, 23.5 mmol) and ethenesulfonyl fluoride (3.3 mL, 30 mmol) was carried out in DMF (75 mL) as described in Example 16. There was obtained a dark oily residue which was dissolved in a minimal amount of IPA and treated with 1.1 equivalents of HCl/IPA. The title compound (4.66 g, 67% yield) was obtained as a tan solid, mp 153°-156.5° C.

reactant | 4-butylaniline | 23.5 mmol, 3.51 g | C(CCC)C1=CC=C(N)C=C1 | C10H15N
reactant | ethenesulfonyl fluoride | 30 mmol, 3.3 mL | C(=C)S(=O)(=O)F | C2H3FO2S
reactant | HCl IPA | 1.1 equivalents | Cl.CC(C)O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | IPA | CC(C)O | C3H8O
product | 2-[(4-Butylphenyl)amino]ethenesulfonyl Fluoride Monohydrochloride | 4.66 g, 67% yield | Cl.C(CCC)C1=CC=C(C=C1)NC=CS(=O)(=O)F | InChI=1S/C12H16FNO2S.ClH/c1-2-3-4-11-5-7-12(8-6-11)14-9-10-17(13,15)16;/h5-10,14H,2-4H2,1H3;1H
